US04983596
A solution of (2S,4R)-2-(2-fluoroethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (4.95 g) in dimethylformamide (5 ml) was added to a mixture of thioacetic S-acid (1.26 ml) and potassium tert-butoxide (1.98 g) in dimethylformamide (25 ml) in a nitrogen stream, and the mixture was heated at 75°-80° C. for 2 hours. The mixture was poured into ice-water (100 ml) and extracted with ethyl acetate (100 ml). The extract was washed with water (100 ml×2) and brine (100 ml), in turn, dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (80 g) and eluted with chloroform to give (2S,4S)-4-acetylthio-2-(2-fluoroethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.75 g).

reactant | (2S,4R)-2-(2-fluoroethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.95 g | FCCOC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H21FN2O8S
reactant | thioacetic S-acid | 1.26 ml | C(C)(=O)S | C2H4OS
reactant | potassium tert-butoxide | 1.98 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-acetylthio-2-(2-fluoroethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.75 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCF | C17H21FN2O6S
